US07547690B2
Neat ammonium formate (2 g, 31.7 mmol) was added to stirred suspension of 9-benzyl-3-methyl-3,9-diazabicyclo[4.2.1]nonane (250 mg, 1.085 mmol) and 10% Pd-C (150 mg, 0.141 mmol) in abs. ethanol (50 ml). The mixture was heated to reflux for 2-3 h. The suspension was filtered and to the filtrate TFA (0.5 ml) was added and evaporated to dryness to afford 3-methyl-3,9-diazabicyclo[4.2.1]nonane and isolated as the bis-TFA salt. LC/MS: m/e 141 (MH+).

reactant | ammonium formate | 31.7 mmol, 2 g | C(=O)[O-].[NH4+]
reactant | 9-benzyl-3-methyl-3,9-diazabicyclo[4.2.1]nonane | 1.085 mmol, 250 mg | C(C1=CC=CC=C1)N1C2CN(CCC1CC2)C | C15H22N2
catalyst | Pd-C | 0.141 mmol, 150 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-methyl-3,9-diazabicyclo[4.2.1]nonane | CN1CC2CCC(CC1)N2 | C8H16N2
